### PR TITLE
[Merged by Bors] - feat(NumberTheory/EulerProduct/DirichletLSeries): establish Dirichlet series for log of L-functions or Riemann-zeta

### PR DESCRIPTION
**Pull request by teorth**
Establishes the Dirichlet series for the logarithm of a Dirichlet L-function (and in particular the Riemann zeta function), to the right of the critical strip.

---
Two simple helper lemmas in other files are also created.  The first is a variant of `Complex.hasSum_taylorSeries_neg_log` that omits the
(vanishing) constant term. The second gives the summation formula for a Dirichlet LSeries in the case where the coefficient function vanishes at the origin.

-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 1]
```diff
@@ -205,3 +205,88 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+open Real hiding log exp_nat_mul exp_add
+open ArithmeticFunction Primes
+
+variable {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ}
+
+/-- For `1 < s.re`, the sum over primes of `-log (1 - χ p * p ^ (-s))` — the logarithm of the Euler
+product — equals the `L`-series of `n ↦ χ n * Λ n / Real.log n`.
+-/
+theorem DirichletCharacter.eulerProduct_log_eq_LSeries (hs : 1 < s.re) :
+    ∑' p : Primes, -log (1 - χ p * p ^ (-s)) = LSeries (fun (n : ℕ) ↦ χ n * Λ n / Real.log n) s
```
Comment (tb65536) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]: Have you thought at all about whether these might be true for all `s` due to the junk values on each side?

Comment (teorth) [reply Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]: Nice observation!  I think you are right, this identity is also true when s.re \leq 1, and I think I can prove it from Euler's theorem on the divergence of 1/p.  I'll look into this and see if there is a clean approach to proving the general case.

EDIT: on further reflection there is a rather annoying difficulty when s.re = 0 because `log (1 - chi p * p ^ (-s) )` can then trigger the `log 0 = 0` junk value and "accidentally" converge while the right-hand side remains divergent.  This can be proven to not happen once one has the prime number theorem in arithmetic progerssions, but this is not in Mathlib (and actually there is a real danger of circularity because the proof of PNT in AP could plausibly use this input).  *eventually* one may be able to prove the full strength version of this theorem, but it is significantly more trouble than it is worth at this stage.  It does seem possible to relax 1 < s.re to 0 < s.re without such significant effort, but this seems like a minor gain since the new side hypothesis is basically just as hard to verify, and doesn't give any new non-junk values.

**Comment by teorth** [comment]
-awaiting-author

**Comment by tb65536** [comment]
Someone with more experience in analysis should review this (in general, I think the t-number-theory label is best used with the t-algebra or t-analysis label).

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 2]
```diff
@@ -287,6 +287,16 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
...
 
+lemma hasSum_taylorSeries_neg_log' {z : ℂ} (hz : ‖z‖ < 1) :
+    HasSum (fun (n : ℕ) => z ^ (n + 1) / (n + 1)) (-log (1 - z)) := by
+  rw [← hasSum_extend_zero (add_left_injective 1)]
+  convert hasSum_taylorSeries_neg_log hz
+  classical
+  rw [Function.extend_def]
+  split_ifs
+  · aesop
+  simp_all
```
Comment (amellendijk) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]:
```suggestion
lemma hasSum_taylorSeries_succ_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
    HasSum (fun n : ℕ ↦ z ^ (n + 1) / (n + 1)) (-log (1 - z)) := by
  rw_mod_cast [hasSum_nat_add_iff 1 (f := fun n ↦ z ^ n / n) (g := -log (1 - z))]
  simpa using hasSum_taylorSeries_neg_log hz
```
I like this lemma because it avoids the `x / 0 = 0` convention.

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 3]
```diff
@@ -205,3 +205,88 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+      apply tsum_congr; rintro ⟨p, n⟩
+      have : (Real.log (p : ℝ) : ℂ) ≠ 0 := mod_cast p.prop.log_ne_zero
+      rw [coe_prodNatEquiv_apply, vonMangoldt_apply_pow n.succ_ne_zero,
+        vonMangoldt_apply_prime p.prop, cpow_def_of_ne_zero, cpow_def_of_ne_zero, mul_pow,
+        ← exp_nat_mul, ← natCast_log, ← natCast_log, cast_pow, cast_pow, Real.log_pow, map_pow]
+      · simp only [cast_add, cast_one, ofReal_mul, ofReal_add, ofReal_natCast, ofReal_one]
+        field_simp
+        simp [← exp_add, mul_assoc]
+      all_goals simp [p.prop.ne_zero]
+    _ = _ := by
```
Comment (amellendijk) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean:247]: I think we're missing the following lemma:

```
theorem tsum_primes_pow_eq {α : Type*} [AddCommGroup α] [UniformSpace α] [IsUniformAddGroup α]
    [CompleteSpace α] [T0Space α] {f : ℕ → α}
    (hf : Summable (fun n : {n // IsPrimePow n} ↦ f n.1)) :
    ∑' (p : Primes) (n : ℕ), f (p ^ (n + 1)) = ∑' n : {n : ℕ // IsPrimePow n}, f n := by
  calc
    _ = ∑' p : Primes × ℕ, f (prodNatEquiv p) := by
      simpa using (Summable.tsum_prod (hf.comp_injective prodNatEquiv.injective)).symm
    _ = _ := by
      rw [← Equiv.tsum_eq prodNatEquiv]
```

In this argument it avoids having to work with product types, and you can prove convergence by direct comparison with `n^(-s)`

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 4]
```diff
@@ -205,3 +205,88 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+      suffices (Function.support fun (n : ℕ) ↦ χ n * Λ n / Real.log n / ((n : ℂ) ^ s))
+          ⊆ {n | IsPrimePow n} from tsum_subtype_eq_of_support_subset this
+      intro n hn
+      contrapose! hn
+      simp [vonMangoldt_eq_zero_iff.mpr hn]
```
Comment (amellendijk) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]:
```suggestion
/-- For `1 < s.re`, the sum over primes of `-log (1 - χ p * p ^ (-s))` — the logarithm of the Euler
product — equals the `L`-series of `n ↦ χ n * Λ n / Real.log n`.
-/
theorem DirichletCharacter.eulerProduct_log_eq_LSeries (hs : 1 < s.re) :
    ∑' p : Primes, -log (1 - χ p * p ^ (-s)) = LSeries (fun (n : ℕ) ↦ χ n * Λ n / Real.log n) s
    := by
  have hpow_le (p : Primes) : ‖χ p * (p : ℂ) ^ (-s)‖ < 1 := by
    grw [norm_mul, norm_le_one, norm_natCast_cpow_of_pos (mod_cast p.prop.pos), neg_re, one_mul]
    apply rpow_lt_one_of_one_lt_of_neg (mod_cast p.prop.one_lt) (by linarith)
  have htaylor (p : Primes) := hasSum_taylorSeries_succ_neg_log (hpow_le p)
  rw [tsum_congr (fun p ↦ (htaylor p).tsum_eq.symm), LSeries_def₀ (by simp)]
  calc
    _ = ∑' (p : Primes) (k : ℕ), (χ (p ^ (k+1)) * ((p ^ (k+1) : ℕ) : ℂ) ^ (-s)) *
          Λ (p ^ (k+1)) / Real.log (p ^ (k+1)) := by
      congr! 4 with p k
      simp only [mul_pow, ← cpow_nat_mul, cast_add, cast_one, mul_neg, map_pow, cast_pow,
        ← natCast_cpow_natCast_mul, ne_eq, Nat.add_eq_zero_iff, one_ne_zero, and_false,
        not_false_eq_true, vonMangoldt_apply_pow, ArithmeticFunction.vonMangoldt_apply_prime p.2,
        Real.log_pow, ofReal_mul, ofReal_add, ofReal_natCast, ofReal_one]
      have : (Real.log p : ℂ) ≠ 0 := by
        exact_mod_cast p.prop.log_ne_zero
      field_simp
    _ = ∑' n : {n : ℕ // IsPrimePow n}, χ n * Λ n / Real.log n * ((n : ℂ) ^ (-s)) := by
      rw [← tsum_primes_pow_eq (f := fun n ↦ χ n * Λ n / Real.log n * (n : ℂ)^(-s))]
      · congr! 4
        simp
        ring
      · apply Summable.comp_injective _ Subtype.coe_injective
          (f := fun n : ℕ ↦ χ n * Λ n / Real.log n * (n : ℂ)^(-s))
        apply Summable.of_norm_bounded_eventually_nat (g := fun n : ℕ ↦ (n:ℝ) ^ (-s.re))
        · simp [hs]
        · filter_upwards [eventually_gt_atTop 1] with n hn
          simp only [norm_mul, norm_div, norm_real, norm_eq_abs]
          grw [norm_le_one, ArithmeticFunction.vonMangoldt_le_log]
          have := Real.log_pos (x := n) (mod_cast hn)
          field_simp
          rw [show (n : ℂ) = (n : ℝ) by norm_cast, norm_cpow_eq_rpow_re_of_nonneg] <;> simp
          grind
    _ = _ := by
      simp only [cpow_neg]
      suffices (Function.support fun (n : ℕ) ↦ χ n * Λ n / Real.log n / ((n : ℂ) ^ s))
          ⊆ {n | IsPrimePow n} from tsum_subtype_eq_of_support_subset this
      intro n hn
      contrapose! hn
      simp [vonMangoldt_eq_zero_iff.mpr hn]
```

Here's an attempt to golf the proof with the extra lemma I suggested, though it's not that much shorter. Do with it what you may.

**Review by amellendijk — COMMENTED** [review]
Thanks!

**Comment by teorth** [comment]
To implement @amellendijk 's corrections, I moved all three existing "tsum over prime powers" identities into `EulerProduct.Basic" (golfing one of them in the process).  Everything else is now implemented and builds.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 5]
```diff
@@ -287,6 +287,11 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
   · simp
   simp [field, pow_add, ← mul_pow]
 
+lemma hasSum_taylorSeries_succ_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: I think the following name will aid discoverability:
```suggestion
lemma hasSum_taylorSeries_neg_log' {z : ℂ} (hz : ‖z‖ < 1) :
```

**Comment by loefflerd** [comment]
I'm away at a conference this week, & the venue has somewhat intermittent internet access. So please don't wait on me for reviewing this PR!

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 6]
```diff
@@ -205,3 +205,79 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+open ArithmeticFunction Primes Summable
+
+variable {N : ℕ} (χ : DirichletCharacter ℂ N) {s : ℂ}
+
+/-- For `1 < s.re`, the sum over primes of `-log (1 - χ p * p ^ (-s))` — the logarithm of the Euler
+product — equals the `L`-series of `n ↦ χ n * Λ n / Real.log n`.
+-/
+theorem DirichletCharacter.eulerProduct_log_eq_LSeries (hs : 1 < s.re) :
+    ∑' p : Primes, -log (1 - χ p * p ^ (-s)) = LSeries (fun (n : ℕ) ↦ χ n * Λ n / Real.log n) s
+    := by
```
Comment (ocfnash) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]:
```suggestion
    ∑' p : Primes, -log (1 - χ p * p ^ (-s)) = LSeries (fun n ↦ χ n * Λ n / Real.log n) s := by
```

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 7]
```diff
@@ -205,3 +205,79 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+  have hpow_le (p : Primes) : ‖χ p * (p : ℂ) ^ (-s)‖ < 1 := by
+    grw [norm_mul, norm_le_one, norm_natCast_cpow_of_pos (mod_cast p.prop.pos), neg_re, one_mul]
+    apply rpow_lt_one_of_one_lt_of_neg (mod_cast p.prop.one_lt) (by linarith)
+  rw [tsum_congr (fun p ↦ (hasSum_taylorSeries_succ_neg_log (hpow_le p)).tsum_eq.symm),
+    LSeries_def₀ (by simp)]
+  calc
+    _ = ∑' (p : Primes) (k : ℕ), (χ (p ^ (k + 1)) * ((p ^ (k + 1) : ℕ) : ℂ) ^ (-s)) *
+          Λ (p ^ (k + 1)) / Real.log (p ^ (k + 1)) := by
+      congr! 4 with p k
```
Comment (ocfnash) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]: I think this proof will be a bit more maintainable if we're more explicit here as follows:
```suggestion
      suffices ∀ (p : Primes) (k : ℕ),
          (χ p * p ^ (-s)) ^ (k + 1) / (k + 1) =
            χ (p ^ (k + 1)) * (p ^ (k + 1)) ^ (-s) * Λ (p ^ (k + 1)) / Real.log (p ^ (k + 1)) by
        aesop
      intro p k
```

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 8]
```diff
@@ -205,3 +205,79 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+      have : Complex.log p ≠ 0 := mod_cast p.prop.log_ne_zero
+      simp [mul_pow, ← cpow_nat_mul, ← natCast_cpow_natCast_mul, vonMangoldt_apply_pow,
+        vonMangoldt_apply_prime p.2]
+      field_simp
+    _ = ∑' n : {n : ℕ // IsPrimePow n}, χ n * Λ n / Real.log n * ((n : ℂ) ^ (-s)) := by
+      rw [← tsum_primes_pow_eq (f := fun n ↦ χ n * Λ n / Real.log n * (n : ℂ)^(-s))]
+      · congr! 4; simp; ring
```
Comment (ocfnash) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]: As above, for maintainability I suggest:
```suggestion
      · suffices ∀ (p : Primes) (k : ℕ),
            χ (p ^ (k + 1)) * (p ^ (k + 1)) ^ (-s) * Λ (p ^ (k + 1)) / Real.log (p ^ (k + 1)) =
              χ (p ^ (k + 1)) * Λ (p ^ (k + 1)) / Real.log (p ^ (k + 1)) * (p ^ (k + 1)) ^ (-s) by
          aesop
        intro p k; simp; ring
```

File: Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean [hunk 9]
```diff
@@ -205,3 +205,79 @@ lemma DirichletCharacter.LSeries_changeLevel {M N : ℕ} [NeZero N]
...
+          (f := fun n : ℕ ↦ χ n * Λ n / Real.log n * (n : ℂ)^(-s))
+        apply of_norm_bounded_eventually_nat (g := (↑· ^ (-s.re)))
+        · simp [hs]
+        · filter_upwards [eventually_gt_atTop 1] with n hn
+          simp only [norm_mul, norm_div, norm_real, norm_eq_abs]
+          grw [norm_le_one, vonMangoldt_le_log]
+          have := log_pos (x := n) (mod_cast hn)
+          field_simp
+          rw [(by norm_cast : (n : ℂ) = (n : ℝ)), norm_cpow_eq_rpow_re_of_nonneg] <;> simp
+          grind
```
Comment (ocfnash) [inline Mathlib/NumberTheory/EulerProduct/DirichletLSeries.lean]: I slightly prefer the following, mostly because spawning side-goals during a rewrite is a bit evil:
```suggestion
          rw [← ofReal_natCast n, norm_cpow_eq_rpow_re_of_nonneg (by simp) (by simp; grind)]
          simp
```

**Review by ocfnash — APPROVED** [review]
Thanks!

All the statements and placement look perfect to me. Just minor nitpicks.

bors d+
